US06319920B1
N-[2-(4-aminophenyl)-1-methylethyl]-N-propyl-(1-methanesulfonyl-piperidin-4-ylmethyl)amine (60 mg) was dissolved in ethyl acetate (1 ml) and saturated potassium carbonate (1 ml). The mixture was cooled in an ice bath to 0° C. and morpholine-4-carbonyl chloride (0.03 ml) was added. After stirring for 30 minutes, the layers were separated. The organic layer was dried over magnesium sulfate, filtered, and the solvent removed to give N-{2-[4-(morpholine-4-carbonylamino)phenyl]-1-methylethyl]-N-propyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine (90 mg) as a foam, M+H 481.

reactant | N-[2-(4-aminophenyl)-1-methylethyl]-N-propyl-(1-methanesulfonyl-piperidin-4-ylmethyl)amine | 60 mg | NC1=CC=C(C=C1)CC(C)N(CCC)CC1CCN(CC1)S(=O)(=O)C | C19H33N3O2S
reactant | potassium carbonate | 1 ml | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine-4-carbonyl chloride | 0.03 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | N-{2-[4-(morpholine-4-carbonylamino)phenyl]-1-methylethyl]-N-propyl-(1-methanesulfonylpiperidin-4-ylmethyl)amine | 90 mg | N1(CCOCC1)C(=O)NC1=CC=C(C=C1)CC(C)N(CCC)CC1CCN(CC1)S(=O)(=O)C | C24H40N4O4S
